US05449676
7. 3-Amino-6-(4-difluoromethoxy-3-ethoxyphenyl)pyridazine 2-oxide
8.9 g (31.6 mmol) of 3-amino-6-(4-difluoromethoxy-3-ethoxyphenyl)pyridazine in 60 ml of glacial acetic acid are heated with 10.9 g (63.2 mmol) of m-chloroperoxybenzoic acid with stirring at 60° C. for 2 h. After cooling, the solution is stirred into 100 ml of water, the solution is exhaustively extracted with ethyl acetate, and the organic extract is dried over magnesium sulfate, concentrated in vacuo and chromatographed on neutral silica gel first with ethyl acetate and then with ethyl acetate/methanol 8:2. The appropriate fractions are concentrated, the residue is taken up in a little ethyl acetate, petroleum ether (b.p. 40°-70° C.) is added to incipient opalescence, and the product is crystallized by cooling. The crystals are filtered off with suction, washed with petroleum ether and dried at 80° C. in vacuo. 5.7 g (60.7%) of the title compound of m.p. 202°-3° C. are obtained.

reactant | 3-amino-6-(4-difluoromethoxy-3-ethoxyphenyl)pyridazine | 31.6 mmol, 8.9 g | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OCC | C13H13F2N3O2
reactant | m-chloroperoxybenzoic acid | 63.2 mmol, 10.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-Amino-6-(4-difluoromethoxy-3-ethoxyphenyl)pyridazine 2-oxide | 5.7 g, 60.7% | NC=1[N+](=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OCC)[O-] | C13H13F2N3O3
